data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7754,"C=CC(C)=[O:1].COC(=O)C1=C(O)C(Br)CCC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5801,"CC1=CO[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2953,"C1CCOC1.CCC1(O)C(=O)OCC2=C1C=C1N(CC[C:1]1([OH:2])[OH+:3]CCO)C2=O.O.O=C([O-])C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3428,"CC(C)(O)C(C)(C)OC(C1=CC=C([N+](=O)[O-])C=C1)[OH:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8107,"CC(=O)O[I+:1]1([O:2][CH:3](C)[H:4])OC(=O)C2=C1C=CC=C2.O=C(O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,489,"CS[CH:1]=[OH+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1547,"C=CC(O)(O)[NH:1]CC.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7298,"CCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C3CCCCC3)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7676,"C1=CC=C(C[OH:1])C=C1.C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O=S(=O)([O-])O.OC1C[NH2+]C([C:2](O)=[OH+:3])C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1645,"CCO.CC[N+:1](CC)(CC)[H:2].COC1=CC=C(C(=O)C2=C3NCCCN3C3([O-:3])C(C4=C(C)NC5=C4C=CC=C5)=CC(=O)CC23)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2276,"CCCCC(=O)C=C(C(CCCC)[O:1][H:2])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7399,"C1=CC=C(CN2CC[C:1](=[OH+:2])C(CC(C3=CC=CC=C3)=[O:3])C2)C=C1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1036,"CC(C)[O-].CCCC1CC(CC)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6944,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=CC(Br)=CC=C1C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6768,"CCOC(=O)C[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1705,"C1=CC2=C(C=C1)[CH:1]=[CH:2][NH:3]2.C1=CC2=C(C=C1)[NH+:4]=[CH:5]C2.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3440,"COC1=C(O)C2=C(C=C1)CC1NCCC23C=C(O)[CH:1]([OH+:2]C)CC13|((1, 2), 2)"
train,pmechdb_split_0,0,6665,"C[C:1](OC1=CC=CC=C1)=[O:2].C[O-:3].O=C(O)[O][K]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3293,"CC[OH:1].C[CH+:2][CH:3](Br)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,8830,"C1=CCC2CCC(C1)N=[C+:1]2.CC1=CC=C(S(=O)(=O)[O-])C=C1.[Cl-].[Na+].[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9449,"C1CCC(=[O:1])CC1.CCCNCCC.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,4220,"CCO.CCOC(=O)C(=CC1=C(CCC2=CC(Br)=CC=C2)ON=C1C)C(C)=O.CCOC(=O)CC(C)(N)[OH:1].O.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5549,"C[O:1][CH:2](CC[O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8289,"CCC1C=CC(O)C(CCCC#N)C1C(=O)N[NH:1]C.O=C([O-])[O][K].[CH3:2][I:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2708,"CCCCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COCC(C)C)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5636,"CCO.CCOC(=O)C(=CC1=C(CCC2=CC(Br)=CC=C2)ON=C1C)C(C)=O.CCOC(=O)C[C:1](C)=[O:2].O.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2200,"CI.C[N+](C)(C)C[C:1](CC1=CC=CC=C1)([C:2]#[N:3])[C:4](=O)[O-:5]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6122,"CC(Br)C1(C)CCC[O+:1]1[H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5300,"CC[O-:1].C[P+:2](C)(C)Br|(1, 2)"
train,pmechdb_split_0,0,8507,"CO[C:1](OC)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2572,"C=C=[C:1](OC)[Li:2].CC(C1=CC=CC=C1)[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3301,"CSC=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,6587,"C[OH+:1][Cl:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,61,"C1CCC([OH:1])CC1.C=CC#N.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7612,"CC(=O)[O-:1].CO.NC1=C([N+:2](=C2C(=O)C3=CC4=C(C=CC=C4)C=C32)[H:3])C=CC=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4615,"C1=CC=[N:1]C=C1.COCOC1CC2C[CH:2]([H:3])[N+:4](C)([O:5]C(=O)C(F)(F)F)CC2C12COC(=O)N2|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,537,"O=C(C1=CC=CC=C1)[CH2:1][Cl:2].OCC[NH:3]CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2142,"N.O[CH:1]([NH3+:2])[NH2:3].[C-]#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6752,"O=S(=O)(O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9575,"C=CCC1CC2CC(O[Si](C)(C)C(C)(C)C)CC(CC3=C(C(OC)=CC=C3)C([O-])(OC(NC3CCCCC3)=[NH+]C3CCCCC3)[O+:1]1[H:2])O2.CN(C)C1=CC=[N:3]C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4842,"CCOC(CC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8839,"CC(C)(C)O[C:1](=[CH2:2])[O:3][Si](C)(C)C.CCC(CC1CCCCC1)[CH:4]=[O+:5][Ti-]([Cl])([Cl])([Cl])[Cl]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1226,"CCCC(C[C:1]#[C:2]C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9933,"Br[C:1]1=[CH:2]C=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
